US04837238
9-(2-Hydroxyethylamino)-5,6,7,8-tetrahydro-1H-pyrazolo-[4,3-b]quinoline (E5)
9-Chloro-5,6,7,8-tetrahydro-1H-pyrazolo[4,3-b]quinoline (2.45 g, 0.012 mole) and ethanolamine (2.2 ml, 0.036 mole) were heated under reflux in dry xylene (25 ml) for 24 hours. The solvent was evaporated off and the residue dissolved in water/methanol. The pH of the solution was adjusted to 9 by the addition of 10% sodium carbonate solution. The precipitate which formed was filtered off, washed with water, dried and recrystallised from ethyl acetate to give the title compound as a beige solid (0.55 g, 20%), m.p. 205°-210° C. Found: C, 62.05; H, 6.95; N, 24.00% C12H16N4O requires C, 62.05; H, 6.95; N, 24.10%

reactant | 9-Chloro-5,6,7,8-tetrahydro-1H-pyrazolo[4,3-b]quinoline | 0.012 mole, 2.45 g | ClC1=C2C(=NC=3CCCCC13)C=NN2 | C10H10ClN3
reactant | ethanolamine | 0.036 mole, 2.2 ml | C(O)CN | C2H7NO
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 9-(2-Hydroxyethylamino)-5,6,7,8-tetrahydro-1H-pyrazolo-[4,3-b]quinoline | 0.55 g, 20% | OCCNC1=C2C(=NC=3CCCCC13)C=NN2 | C12H16N4O
